US04968702
3-Amino-6-chloro-2-(4-bromophenyl)-4-quinolinecarboxylic acid
A solution of 5.45 g of 5-chloroisatin in water was reacted with 10.0 g of 2-amino-1-(4-bromophenyl)ethanone hydrochloride by the procedure described in example 1, giving 9.31 g of the desired compound as a yellow solid, mp 241°-242° C.

reactant | 5-chloroisatin | 5.45 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 2-amino-1-(4-bromophenyl)ethanone hydrochloride | 10.0 g | Cl.NCC(=O)C1=CC=C(C=C1)Br
reactant | water | O | H2O
product | 3-Amino-6-chloro-2-(4-bromophenyl)-4-quinolinecarboxylic acid | 9.31 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)Cl)C1=CC=C(C=C1)Br | C16H10BrClN2O2
